US04319024
32.5 g (0.25 mol) of sodium-3-hydroxyacrylonitrile (content 70%) and 43.1 g (0.3 mol) of benzylamine hydrochloride are refluxed for 5 h in 150 ml of acetonitrile. After removal of the solid by filtration and withdrawal of the solvent, the product was dissolved in chloroform and washed with water. Subsequent vacuum distillation yielded 22.6 g of 3-benzylaminoacrylonitrile (57.1%).

reactant | sodium 3-hydroxyacrylonitrile | 0.25 mol, 32.5 g | [Na].OC=CC#N
reactant | benzylamine hydrochloride | 0.3 mol, 43.1 g | Cl.C(C1=CC=CC=C1)N
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 3-benzylaminoacrylonitrile | 22.6 g, 57.1% | C(C1=CC=CC=C1)NC=CC#N | C10H10N2
